US05583232
A. 2-Isopropyl-4-(2-((N-methyl)amino)ethyl)thiazole
A solution of 2.0 g (12 mmol) of 2-isopropyl-4-(hydroxyethyl)thiazole in 50 ml of tetrahydrofuran was treated with 1.34 g (12 mmol) of methanesulfonyl chloride. The resulting solution was treated dropwise with 3.4 ml (24 mmol) of triethylamine and stirred at ambient temperature for 1 h. A portion (25 ml) of the resulting solution was added to 50 ml of aqueous ethylamine (70% in H2O) with rapid stirring. After addition, the mixture was heated to reflux for 2 h, allowed to cool, diluted with ethyl acetate, washed with aqueous NaHCO3 and saturated brine, dried over Na2SO4, and concentrated in vacuo to provide the crude desired compound. Purification of the residue by silica gel chromatography using 5% methanol in chloroform, 0.52 g (48%) of the desired compound. 1H NMR (CEDCl3) δ1.38 (d, J=7 Hz, 3H), 2.46 (s, 3H), 2.93 (s, 4H), 3.30 (heptet, J=7 Hz, 1H), 6.79 (s, 1H). Mass spectrum: (M+H)+ =185.

reactant | 2-isopropyl-4-(hydroxyethyl)thiazole | 12 mmol, 2.0 g | C(C)(C)C=1SC=C(N1)CCO | C8H13NOS
reactant | methanesulfonyl chloride | 12 mmol, 1.34 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 24 mmol, 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethylamine | 50 ml | C(C)N | C2H7N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Isopropyl-4-(2-((N-methyl)amino)ethyl)thiazole | C(C)(C)C=1SC=C(N1)CCNC | C9H16N2S
